US07192970B2
Preparation of methyl 2-carbamoyl-3-[4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoxy)ethoxy]phenyl]propionate
To a solution of 2-(methoxycarbonyl)-3-[4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoxy)ethoxy]phenyl]propionic acid (2.40 g, 5.29 mmol) in benzene (20 ml) at room temperature is added thionyl chloride (0.76 g, 6.34 mmol). Then the mixture is heated at 80° C. for 90 min. After cooled to room temperature, the solvent is removed under a vacuum. To the residue is added 28% ammonia solution (5.49 ml, 79.30 mmol) at room temperature. The mixture is stirred for 30 min, dissolved in ethyl acetate (20 ml), washed with brine (3×15 ml), dried over sodium sulfate, and concentrated. The crude product is crystallized from ethanol to give title compound (1.35 g, 56%). HRMS calcd for C27H35NO5: 453.5786. Found: 453.5784. MA calcd for C27H35NO5: C, 71.50%; H, 7.78%; N, 3.09. Found: C, 71.52%; H, 7.76%; N, 3.12%.

reactant | 2-(methoxycarbonyl)-3-[4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoxy)ethoxy]phenyl]propionic acid | 5.29 mmol, 2.40 g | COC(=O)C(C(=O)O)CC1=CC=C(C=C1)OCCOC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C27H34O6
reactant | thionyl chloride | 6.34 mmol, 0.76 g | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | 79.30 mmol, 5.49 ml | N | H3N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2-carbamoyl-3-[4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoxy)ethoxy]phenyl]propionate | 1.35 g, 56% | C(N)(=O)C(C(=O)OC)CC1=CC=C(C=C1)OCCOC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C27H35NO5
